US04195994
2'-Amino-4'-nitromethanesulfonanilide.
4-Nitro-o-phenylenediamine (30.6 g; 0.2 mole) was nearly dissolved in pyridine (ca. 500 ml). The mixture was chilled to 5° C. and methanesulfonyl chloride (22.8 g; 0.2 mole) was added dropwise, while stirring, at <10° C. After the addition, the solution was left stirring at the ice bath temperature for about one hour. The reaction solution was poured into ice cold water (~2 liter) and stirred while scratching vigorously. The product was filtered and dried to yield 28.8 g (62 percent) beige solid, m.p. 201° to 204° C.

reactant | 4-Nitro-o-phenylenediamine | 0.2 mole, 30.6 g | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
reactant | methanesulfonyl chloride | 0.2 mole, 22.8 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | ca. 500 ml | N1=CC=CC=C1 | C5H5N
product | 2'-Amino-4'-nitromethanesulfonanilide | 28.8 g, 62 percent | NC1=C(NS(=O)(=O)C)C=CC(=C1)[N+](=O)[O-] | C7H9N3O4S
